US08222424B2
2-Chloro-5-(1-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-7-carbonyl)-benzenesulfonamide
7-Trimethylstannanyl-2,3,4,9-tetrahydro-pyrido[3,4-b]indol-1-one (0.66 g, 1.88 mmol) and 1,8-bis(dimethylamino) naphthalene (0.210 g, 0.94 mmol) in tetrahydrofuran (25 mL) is treated with 4-chloro-3-sulfamoyl-benzoyl chloride (0.48 g, 1.88 mmol). After a few minutes, allylpalladium chloride dimer (0.057 g, 0.15 mmol) is added. The reaction mixture is stirred for 5 min at room temperature and then refluxed for 2 h. After cooling to room temperature the reaction mixture is diluted with methylene chloride and washed with a saturated sodium chloride solution then concentrated in vacuo. Purification by silica gel chromatography (75% ethyl acetate-hexane) followed by recrystallization (ethanol-ethyl acetate) provides 0.014 g (1.8%) of the title compound as a pale yellow solid. 1H NMR (DMSO): δ 12.00 (s, 1H), 8.30 (s, 1H), 8.00 (m, 1H), 7.90 (m, 6H), 7.60 (m, 1H), 3.40 (m, 2H), 3.00 (m, 2H). MS (m/z): 402.0 (M−1).

reactant | 7-Trimethylstannanyl-2,3,4,9-tetrahydro-pyrido[3,4-b]indol-1-one | 1.88 mmol, 0.66 g | C[Sn](C1=CC=C2C3=C(NC2=C1)C(NCC3)=O)(C)C
reactant | 1,8-bis(dimethylamino) naphthalene | 0.94 mmol, 0.210 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 4-chloro-3-sulfamoyl-benzoyl chloride | 1.88 mmol, 0.48 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | allylpalladium chloride dimer | 0.15 mmol, 0.057 g | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
product | 2-Chloro-5-(1-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-7-carbonyl)-benzenesulfonamide | 0.014 g, 1.8% | ClC1=C(C=C(C=C1)C(=O)C1=CC=C2C3=C(NC2=C1)C(NCC3)=O)S(=O)(=O)N | C18H14ClN3O4S
